Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[C@@:4]1([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])[H:13],1.09196950497
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1]/[C:2](=[C:3]\[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4],4.764983406540001
[C:6]=[C:7]([H:8])[H:9].[O:1][O:2][C:3]([H:4])=[C:5]>>[O:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])[H:9],-6.64437558915
[H:8].[O:1][O:2][C:3]([C:4][H:5])[C:6]([H:7])[C:9]([H:10])([H:11])[H:12]>>[O:1][O:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.01771720238
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[O:1]=[C:2]([H:3])[H:4],0.31585606586
[C:11][H:12].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12],-6.05328168594
[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[H:9].[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:10][H:11],4.640589080440001
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]#[C:4][O:6][C:7][C:8]([H:9])([H:10])[H:11].[H:5],2.97523726671
[H:5].[O:1][C@@:2]([H:3])([C:4]=[C:6]=[O:7])[C:8]([H:9])([H:10])[H:11]>>[O:1][C@@:2]([H:3])([C:4]([H:5])=[C:6]=[O:7])[C:8]([H:9])([H:10])[H:11],-4.59373964356
[H:1][O:2]/[C:3]([H:4])=[C:10](/[C:7]([C:6]=[O:5])([H:8])[H:9])[H:11]>>[H:1][O:2][C@@:3]1([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]1[H:11],1.74691291037
[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](/[H:8])[C:10][O:11][C:12]([H:13])([H:14])[H:15].[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:11][C:12]([H:13])([H:14])[H:15],-1.59999941169
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][O:4]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-2.30445917276
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([O:7][H:8])[C:9]([C:10])([H:11])[H:12]>>[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9](=[C:10])[H:11].[H:12],1.72674053082
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],3.03999860073
[C:1]#[C:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:1][C:2]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9].[C:3],6.849176920340001
[C:1]#[C:2].[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11]>>[C:1]#[C:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11],-6.16976980951
[C:1]#[C:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:1]([C:2][C:8]([H:9])([H:10])[O:11][H:12])([H:5])([H:6])[H:7].[C:3]#[C:4],7.839998447839999
[H:1][O:2][C@@:3]1([C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C@@:10]1([H:11])[O:12][H:13]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C@@:10]([C:7]([H:8])[H:9])([H:11])[O:12][H:13],-0.36714778273
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:1]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10].[C:2]#[C:3],5.2830460277
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][O:2][C:3](=[C:4][H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:6],5.15145793052
[C:5]([H:6])([H:7])[H:8].[H:1][C:2][O:3][C:4][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.48482852299
[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-3.70958082984
[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],1.173698601
[C:7]=[C:8]([H:9])[H:10].[H:1][C:2][O:3][C:4]([H:5])=[O:6]>>[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],-0.322679800569
[C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][H:9].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][H:9],-3.97381911809
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([C:8]([H:9])([H:10])[H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19]>>[C:16]([H:17])([H:18])[H:19].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],1.36616092975
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[H:6].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:7](\[H:8])[C:9][C:10]([H:11])([H:12])[H:13],3.97941050342
[C:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])[H:10]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8][H:9].[H:10],4.4029738624
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2],5.379167906980001
